US08034937B2
1′-[(6-Chloro-1-{[(2S)-1-methylpyrrolidin-2-yl]methyl}-1H-indol-3-yl)carbonyl]-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidine]
A solution of 0.15 g (0.29 mmol) 1′-({6-chloro-1-[(2S)-pyrrolidin-2-ylmethyl]-1H-indol-3-yl}carbonyl)-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidine]dihydrochloride, 0.10 ml (0.72 mmol) triethylamine and 0.070 g (2.3 mmol) paraformaldehyde in 3 ml methanol was heated at reflux for 2 h. Cooling the reaction mixture to 0° C. using an ice-water bath was followed by addition of 0.030 g (0.43 mmol) sodium cyanoborohydride. The reaction mixture was stirred at room temperature for 16 h, quenched with water and diluted with 1 M aqueous sodium hydroxide solution. The aqueous layer was extracted with three portions of ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash column chromatography (aminopropyl-modified silica gel) to give the title compound (0.10 g; 77%) as an off-white solid.

reactant | 1′-({6-chloro-1-[(2S)-pyrrolidin-2-ylmethyl]-1H-indol-3-yl}carbonyl)-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidine]dihydrochloride | 0.29 mmol, 0.15 g | Cl.Cl.ClC1=CC=C2C(=CN(C2=C1)C[C@H]1NCCC1)C(=O)N1CCC2(CC1)OCC1=NC=CC=C12
reactant | triethylamine | 0.72 mmol, 0.10 ml | C(C)N(CC)CC | C6H15N
reactant | paraformaldehyde | 2.3 mmol, 0.070 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.43 mmol, 0.030 g | C(#N)[BH3-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 1′-[(6-Chloro-1-{[(2S)-1-methylpyrrolidin-2-yl]methyl}-1H-indol-3-yl)carbonyl]-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidine] | 0.10 g, 77% | ClC1=CC=C2C(=CN(C2=C1)C[C@H]1N(CCC1)C)C(=O)N1CCC2(CC1)OCC1=NC=CC=C12 | C26H29ClN4O2
